US07563816B2
Step C: 1-[1-(3,3-Dimethyl-2-oxobutyl)-6-methoxy-1H-indazol-3-yl]-2-methylprop-1-en-1-yl dimethyl phosphate
Reaction of 1-[3-(2-bromo-2-methylpropanoyl)-6-methoxy-1H-indazol-1-yl]-3,3-dimethylbutan-2-one from the above with trimethyl phosphite using the procedure as described in Method I Step B above provided the title compound identical to the one obtained with Method I.

reactant | 1-[3-(2-bromo-2-methylpropanoyl)-6-methoxy-1H-indazol-1-yl]-3,3-dimethylbutan-2-one | BrC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(C(C)(C)C)=O)(C)C | C18H23BrN2O3
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | 1-[1-(3,3-Dimethyl-2-oxobutyl)-6-methoxy-1H-indazol-3-yl]-2-methylprop-1-en-1-yl dimethyl phosphate | P(=O)(OC(=C(C)C)C1=NN(C2=CC(=CC=C12)OC)CC(C(C)(C)C)=O)(OC)OC | C20H29N2O6P
